US08808703B2
Step 4: diethyl 2-(2-(2-(2-aminoethoxy)ethoxy)ethoxy)ethylphosphonate
To a solution of diethyl 2-(2-(2-(2-azidoethoxy)ethoxy)ethoxy)ethylphosphonate (1 eq) in EtOH (0.1 M) was added Pd(OH)2 (0.05 eq). The reaction mixture was stirred under hydrogen (1 atm) for 4 hours. The mixture was filtered through Celite and washed with MeOH. The solvent was removed en vaccuo. The crude material was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 0-10% MeOH/DCM with 0.5% NH3 to give the product as a colorless oil.

reactant | diethyl 2-(2-(2-(2-azidoethoxy)ethoxy)ethoxy)ethylphosphonate | 1 eq | N(=[N+]=[N-])CCOCCOCCOCCP(OCC)(OCC)=O | C12H26N3O6P
solvent | EtOH | 0.1 M | CCO | C2H6O
catalyst | Pd(OH)2 | 0.05 eq | [OH-].[OH-].[Pd+2]
product | diethyl 2-(2-(2-(2-aminoethoxy)ethoxy)ethoxy)ethylphosphonate | NCCOCCOCCOCCP(OCC)(OCC)=O | C12H28NO6P
